US08008298B2
To a solution of LDA (made by dropwise addition of nBuLi (2.38M, 13.45 ml, 32.01 mmol) to a −78° C. solution of diisopropyl amine (4.5 ml, 32.0 mmol), in THF (160 ml), in THF, at −78° C.), was added 4-benzyloxy-cyclohexanecarboxylic acid (3.75 g, 16.0 mmol) (Eur. Pat. Appl. (1984), 33 pp. EP 123238A2) dissolved in THF (24 ml). After complete addition, the reaction mixture was stirred at 50° C. for approximately 2 hours. The reaction mixture was cooled to room temperature and MeI (filtered through basic alumina) was added to the reaction mixture, dropwise. After stirring at room temperature for overnight, the reaction mixture was quenched with ice water containing ether, and the aqueous layers were collected. The organic layer was washed one time with water, and the aqueous layer was combined with previous aq. layers. The combined aqueous layers were acidified with 2N HCl (pH=1), and extracted four times with ether. The ether extracts were brined, dried over MgSO4, filtered, and concentrated giving 3.3 g (83%) of 4-benzyloxy-1-methyl-cyclohexanecarboxylic acid as an off white solid. M−H=247.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | nBuLi | 32.01 mmol, 2.38M, 13.45 ml | [Li]CCCC
reactant | diisopropyl amine | 32.0 mmol, 4.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-benzyloxy-cyclohexanecarboxylic acid | 16.0 mmol, 3.75 g | C(C1=CC=CC=C1)OC1CCC(CC1)C(=O)O | C14H18O3
reactant | MeI | CI | CH3I
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 4-benzyloxy-1-methyl-cyclohexanecarboxylic acid | 3.3 g, 83% | C(C1=CC=CC=C1)OC1CCC(CC1)(C(=O)O)C | C15H20O3
